* G:\My Drive\Graduate Reserach\LTSpice\SC Fibb\AURA\SC_FIB_AURA_DL.asc
M1 N001 NC_01 N007 N007 NMOS
M2 N007 NC_02 N018 N018 NMOS
M3 N003 NC_03 N001 N001 NMOS
M4 N018 NC_04 N031 N031 NMOS
M5 N031 NC_05 0 0 NMOS
M6 0 NC_06 N034 N034 NMOS
M7 N002 NC_07 N013 N013 NMOS
M8 N013 NC_08 N018 N018 NMOS
M9 N018 NC_09 N025 N025 NMOS
M10 N025 NC_10 N033 N033 NMOS
M11 N003 NC_11 N006 N006 NMOS
M12 N006 NC_12 N017 N017 NMOS
M13 N002 NC_13 N003 N003 NMOS
M14 N019 NC_14 N028 N028 NMOS
M15 N028 NC_15 N034 N034 NMOS
M16 N034 NC_16 N033 N033 NMOS
V1 N011 N023 12
V2 N014 N018 4
V3 N022 0 4
R1 N001 N014 5m
R2 N018 N022 5m
R3 N011 N012 5m
R4 N023 N024 5m
L1 N012 N013 100n
L2 N024 N025 100n
C1 N009 N008 5µ
C2 N029 N030 5µ
C3 N004 N005 2.5µ
C4 N027 N026 2.5µ
C5 N010 N016 2µ
C6 N018 N021 2µ
R5 N008 N003 3m
R6 N004 N002 3m
R7 N034 N029 3m
R8 N033 N026 3m
R9 N016 N018 2m
R10 N021 N032 2m
D1 N007 N001 D
D2 N018 N007 D
D3 N001 N003 D
D4 N031 N018 D
D5 0 N031 D
D6 N034 0 D
D7 N013 N002 D
D8 N018 N013 D
D9 N025 N018 D
D10 N033 N025 D
D11 N006 N003 D
D12 N017 N006 D
D13 N003 N002 D
D14 N028 N019 D
D15 N034 N028 D
D16 N033 N034 D
L3 N020 0 1
L4 N019 N015 1
R11 N017 N020 1
R12 N001 N015 1
L5 N009 N007 1
L6 N031 N030 1
L7 N028 N027 1
L8 N005 N006 1
L9 N001 N010 1
L10 N032 0 1
.model D D
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
