* G:\My Drive\Graduate Reserach\LTSpice\SC Fibb\AURA\SC_FIB_AURA_USB_SP.asc
M1 N003 NC_01 N007 N007 NMOS
M2 N007 NC_02 N013 N013 NMOS
M3 N002 NC_03 N003 N003 NMOS
M4 N013 NC_04 N021 N021 NMOS
M5 N021 NC_05 0 0 NMOS
M6 0 NC_06 N023 N023 NMOS
M7 N001 NC_07 N010 N010 NMOS
M8 N010 NC_08 N013 N013 NMOS
M9 N013 NC_09 N015 N015 NMOS
M10 N015 NC_10 N022 N022 NMOS
M11 N002 NC_11 N005 N005 NMOS
M12 N005 NC_12 N013 N013 NMOS
M13 N001 NC_13 N002 N002 NMOS
M14 N013 NC_14 N019 N019 NMOS
M15 N019 NC_15 N023 N023 NMOS
M16 N023 NC_16 N022 N022 NMOS
V1 N008 N014 12
V2 N011 N013 4
V3 N017 0 4
R1 N003 N011 5m
R2 N013 N017 5m
R3 N008 N009 5m
R4 N014 N015 5m
L1 N009 N010 100n
L2 N014 N015 100n
C1 N007 N006 5µ
C2 N020 N021 5µ
C3 N004 N005 2.5µ
C4 N019 N018 2.5µ
C5 N003 N012 2µ
C6 N013 N016 2µ
R5 N006 N002 3m
R6 N004 N001 3m
R7 N023 N020 3m
R8 N022 N018 3m
R9 N012 N013 2m
R10 N016 0 2m
C7 N015 N014 50n
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
