* SeriesCapBuck.asc
V1 N001 0 {Vg} Rser=1m
L1 N003 N004 {Lf}
C1 N004 0 {Cout}
R1 N004 0 {Rout}
M1 N001 NC_02 N002 N002 NMOS ron = {ron} Coss = {Coss}
M2 N002 NC_01 N005 N005 NMOS ron = {ron} Coss = {Coss}
M3 N005 NC_03 N007 N007 NMOS ron = {ron} Coss = {Coss}
M4 N007 NC_04 0 0 NMOS ron = {ron} Coss = {Coss}
M5 N006 NC_05 0 0 NMOS ron = {ron} Coss = {Coss}
M6 N003 NC_06 0 0 NMOS ron = {ron} Coss = {Coss}
Cfly1 N003 N002 {Cfly}
Cfly2 N006 N005 {Cfly}
L2 N006 N004 {Lf}
L3 N007 N004 {Lf}

.param ron = 5e-3
.param Coss = 1e-9
.param Lf = 1e-6
.param Cout = 20e-6
.param Rout = .1
.param Cfly = 2e-6
.param Vg = 48

.param swvec = [0 0 1 0 1 1;  0 0 0 0 1 1;   0 0 0 1 1 1;  0 0 0 1 0 1;  0 1 0 1 0 1; 0 0 0 1 0 1;   0 0 0 1 1 1;   0 0 0 1 1 0;  1 0 0 1 1 0;  0 0 0 1 1 0;  0 0 0 1 1 1; 0 0 0 0 1 1; 0 0 1 0 1 1];
.param ts = [0.0500  0.01  0.2333  0.01  0.1000  0.01  0.2333  0.01  0.1000  0.01  0.2333 0.01 0.0500]*1e-6;
.end
