* C:\Users\dcostine\Dropbox\UTK\Research\AURA\testConverters\LTspice NetLists\schematics\Boost_Async.asc
M2 N004 NC_01 0 0 NMOS ron = {ron} Coss = {Coss}
V1 N003 0 {Vg}
L1 N004 N003 {Lf}
C1 N002 0 {Co}
R1 N002 0 {RL}
D2 N004 N001 D Vf={Vf} Ron={rd} Cd={Cd}
R2 N001 N002 {Rop}
.model D D
.lib C:\Users\dcostine\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\dcostine\Documents\LTspiceXVII\lib\cmp\standard.mos
.param ts = [.45 .02 .25 .28]*.5u
.param swvec = [1 0; 0 0; 0 1; 0 0]
.param Vg = 48
.param Lf = .5u
.param Co = 1u
.param RL = 100
.param rd = 10m
.param Cd = 1n
.param Vf = 1
.param Coss = 10n
.param ron = 5m
.param Rop = 1m
.backanno
.end
