* SeriesCapBuck.asc
V1 N001 0 48 Rser = 1m
L1 N004 N005 {Lf}
C1 N005 0 {Cout}
R1 N005 0 {Rout}
M1 N002 NC_02 N003 N003 NMOS ron = {ron} Coss = {Coss}
M2 N003 NC_01 N006 N006 NMOS ron = {ron} Coss = {Coss}
M3 N006 NC_03 N008 N008 NMOS ron = {ron} Coss = {Coss}
M4 N008 NC_04 0 0 NMOS ron = {ron} Coss = {Coss}
M5 N007 NC_05 0 0 NMOS ron = {ron} Coss = {Coss}
M6 N004 NC_06 0 0 NMOS ron = {ron} Coss = {Coss}
Cfly1 N004 N003 {Cfly}
Cfly2 N007 N006 {Cfly}
L2 N007 N005 {Lf}
L3 N008 N005 {Lf}
R2 N002 N001 1m
.end
