* C:\Users\dcostine\Dropbox\UTK\Research\AURA\testConverters\LTspice NetLists\schematics\SeriesCapBuck7Lvl.asc
L1 N003 N006 {Lf}
M1 N001 NC_01 N002 N002 NMOS ron = {ron} Coss = {Coss}
Cfly1 N003 N002 {Cfly}
Cfly2 N005 N004 {Cfly}
L2 N005 N006 {Lf}
L3 N008 N006 {Lf}
M2 N002 NC_02 N004 N004 NMOS ron = {ron} Coss = {Coss}
M3 N004 NC_03 N007 N007 NMOS ron = {ron} Coss = {Coss}
M4 N007 NC_04 N009 N009 NMOS ron = {ron} Coss = {Coss}
Cfly3 N008 N007 {Cfly}
L4 N010 N006 {Lf}
Cfly4 N010 N009 {Cfly}
L5 N012 N006 {Lf}
M5 N009 NC_05 N011 N011 NMOS ron = {ron} Coss = {Coss}
Cfly5 N012 N011 {Cfly}
Cfly6 N014 N013 {Cfly}
L6 N014 N006 {Lf}
L7 N015 N006 {Lf}
M6 N011 NC_06 N013 N013 NMOS ron = {ron} Coss = {Coss}
M7 N013 NC_07 N015 N015 NMOS ron = {ron} Coss = {Coss}
M8 N015 NC_08 0 0 NMOS ron = {ron} Coss = {Coss}
C1 N006 0 {Cout}
R1 N006 0 {Rout}
M9 N014 NC_09 0 0 NMOS ron = {ron} Coss = {Coss}
M10 N012 NC_10 0 0 NMOS ron = {ron} Coss = {Coss}
M11 N010 NC_11 0 0 NMOS ron = {ron} Coss = {Coss}
M12 N008 NC_12 0 0 NMOS ron = {ron} Coss = {Coss}
M13 N005 NC_13 0 0 NMOS ron = {ron} Coss = {Coss}
M14 N003 NC_14 0 0 NMOS ron = {ron} Coss = {Coss}
V1 N001 0 48
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\dcostine\Documents\LTspiceXVII\lib\cmp\standard.mos
.backanno
.end
