* C:\Users\jared\Documents\Graduate Reserach\LTSpice\BasicTransformer.asc
V1 N001 0 SINE(0 1 100k) Rser=1
L1 N001 0 100µ
L2 N002 0 900µ
K1 L1 L2 1
.tran .1
.backanno
.end
