* G:\My Drive\Graduate Reserach\LTSpice\3-Level\Buck_Boost_Vout_D.asc
V1 N006 0 12
M1 N006 NC_01 N007 N007 NMOS
M2 N007 NC_02 0 0 NMOS
L1 N011 N003 200n
M3 N001 NC_03 N004 N004 NMOS
M4 N004 NC_04 N003 N003 NMOS
M5 N003 NC_05 N013 N013 NMOS
M6 N013 NC_06 0 0 NMOS
C3 N012 N015 2µ
C1 N010 N013 23.5µ
R7 N011 N002 1
V2 N001 N008 4
R2 N008 N012 5m
R3 N012 N014 5m
V3 N014 0 4
C2 N005 N012 2µ
R4 N001 N005 2m
R5 N015 0 2m
R6 N004 N010 2.2m
R1 N002 N007 0.0024
R8 N003 N009 1
R9 N003 N002 1
C4 N002 N009 1µ
D1 N007 N006 D
D2 0 N007 D
D3 N004 N001 D
D4 N003 N004 D
D5 N013 N003 D
D6 0 N013 D
.model D D
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
