* G:\My Drive\Graduate Reserach\LTSpice\3-Level\Buck_SC_Vout_D.asc
V1 N004 0 12
M1 N004 NC_01 N005 N005 NMOS
M2 N005 NC_02 0 0 NMOS
L1 N001 N007 200n
M3 N001 NC_03 N003 N003 NMOS
M4 N003 NC_04 N008 N008 NMOS
M5 N008 NC_05 N011 N011 NMOS
M6 N011 NC_06 0 0 NMOS
C3 N001 N013 2µ
C1 N009 N011 23.5µ
R7 N007 N002 1
V2 N008 N012 4
R2 N012 0 5m
C2 N010 0 2µ
R4 N008 N010 2m
R5 N013 0 2m
R6 N003 N009 2.2m
R1 N002 N005 0.0024
R8 N001 N006 1
R9 N001 N002 1
C4 N002 N006 1µ
D1 N005 N004 D
D2 0 N005 D
D3 N003 N001 D
D4 N008 N003 D
D5 N011 N008 D
D6 0 N011 D
.model D D
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
