* C:\Users\jared\Documents\Graduate Reserach\LTSpice\Forward\Forward.asc
V1 N003 0 1
M1 N005 0 0 0 NMOS
L1 N003 N006 1µ
L2 0 N001 3
L3 N005 N003 2
R1 N004 0 10k
D1 0 N006 D
L4 N003 N005 2
D2 0 N002 D
D3 N001 N002 D
C1 N004 0 3
L5 N002 N004 1
.model D D
.lib C:\Users\jared\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jared\Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 L3 1
.tran 1
.backanno
.end
