* G:\My Drive\Graduate Reserach\LTSpice\Switch Capacitor Step Down Converters\Induct_Load_Dickson.asc
V1 N001 0 V
I1 N017 0 I
M1 N001 NC_01 N002 N002 NMOS
M2 N002 NC_02 N005 N005 NMOS
M3 N005 NC_03 N006 N006 NMOS
M4 N006 NC_04 N009 N009 NMOS
C1 P001 N002 C
C2 P002 N004 C
C3 N007 N003 C
C4 N008 N004 C
M5 N009 NC_05 N010 N010 NMOS
M6 N010 NC_06 N012 N012 NMOS
M7 N012 NC_07 N013 N013 NMOS
M8 N013 NC_08 N015 N015 NMOS
C5 N003 P003 C
C6 N011 N004 C
C7 N014 N003 C
C8 N017 0 C
M9 N015 NC_09 N004 N004 NMOS
M10 N004 NC_10 0 0 NMOS
M11 N015 NC_11 N003 N003 NMOS
M12 N003 NC_12 0 0 NMOS
R1 N003 P001 R
R2 N005 P002 R
R3 N007 N006 R
R4 N009 N008 R
R5 P003 N010 R
R6 N012 N011 R
R7 N014 N013 R
R8 N016 N017 R
L1 N015 N016 L
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5
.backanno
.end
